US05576324
5-Methyl-2-[1-(2-thienylmethylamino)methyl]-2,3,6,7-tetrahydrofuro-[2,3-f]quinoline-7-one:
A mixture of 2-bromomethyl-5-methyl-2,3,6,7-tetrahydrofuro-[2,3-f]quinoline-7-one (2.942 g) and 2-aminomethylthiophene (4.528 g) was stirred in a hot bath at 150° C. in the stream of argon gas for 4 hours. The solvent was distilled off under reduced pressure. Chloroform was added to the residue, and washed with sodium bicarbonate water, and water in this order. After dried, the residue was crystallized from ethanol to obtain 2.712 g of a free base of the title compound as pale yellow prisms (mp.: 163°-165° C.).

reactant | 2-bromomethyl-5-methyl-2,3,6,7-tetrahydrofuro-[2,3-f]quinoline-7-one | 2.942 g | BrCC1CC=2C(=C3C=CC(NC3=C(C2)C)=O)O1 | C13H12BrNO2
reactant | 2-aminomethylthiophene | 4.528 g | NCC=1SC=CC1 | C5H7NS
product | 5-Methyl-2-[1-(2-thienylmethylamino)methyl]-2,3,6,7-tetrahydrofuro-[2,3-f]quinoline-7-one | 2.712 g, Yield: 83.1% | CC=1C=C2C(=C3C=CC(NC13)=O)OC(C2)CNCC=2SC=CC2 | C18H18N2O2S
